US06462075B1
2,2′,6,6′-Tetrachlorochalcone.
(32) To a solution of the 2,6-dichlorobenzaldehyde (438 mg, 2.50 mmol) and 2,6-dichloroacetophenone (473 mg, 2.50 mmol) in 3.7 ml of ethanol was added 0.1 ml of 40% sodium hydroxide in water at 10° C. After stirring for 2 hours at room temperature, a solid appeared and was filtered. The precipitate was recrystallized from methanol to afford 465 mg (53.8%) of white, cottony needles: mp 130-130.4° C. (lit. mp 124-125° C., Kaiser, et al., Monatshefte fur Chemie, 1997, 128, 1247-1254). 1H NMR (250 MHz) δ 7.43-7.17 (m, 7H), 7.10-7.03 (d, 1H); 13C NMR (62.7 MHz) 193.0, 141.7, 137.5, 135.3 134.4, 132.1, 131.8, 131.0, 130.6, 129.0, 128.3 ppm.

reactant | 2,6-dichlorobenzaldehyde | 2.50 mmol, 438 mg | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | 2,6-dichloroacetophenone | 2.50 mmol, 473 mg | CC(=O)C1=C(C=CC=C1Cl)Cl | C8H6Cl2O
reactant | sodium hydroxide | 0.1 ml | [OH-].[Na+]
solvent | ethanol | 3.7 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2,2′,6,6′-Tetrachlorochalcone | ClC1=C(C(=CC=C1)Cl)C=CC(=O)C1=C(C=CC=C1Cl)Cl | C15H8Cl4O
